US04551452
4-[1-(Butoxycarbonyloxy)ethoxy]-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-Dioxide
By the procedure of Example 6, piroxicam (3.00 g, 9.1 mmol) and alpha-chloroethyl butyl carbonate (5.30 g, 29.3 mmol) were converted to title product, 600 mg yellow solid (1.3 mmol, 13.9%) which was recrystallized from isopropyl alcohol to give 325 mg white crystals: mp 132°-133° C.; IR (KBr) 1758, 1681 cm-1 ; 1H NMR (CDCl3) delta 0.87 (t, J=7 Hz, 3H), 1.18-1.35 (m, 2H), 1.42-1.58 (m, 2H), 1.76 (d, J=6 Hz, 3H), 3.11 (s, 3H), 4.01 (t, J=7 Hz, 2H), 6.35 (q, J=6 Hz, 1H), 7.05-7.15 (m, 1H), 7.65-7.82 (m, 3H), 7.82-7.95 (m, 2H), 8.30-8.40 (m, 2H), 9.39 (br s, 1H): precise mass calcd for C22H25N3O7S m/e 475.1413, found 475,1425.

reactant | piroxicam | 9.1 mmol, 3.00 g | CN1C(=C(C=2C=CC=CC2S1(=O)=O)O)C(=O)NC=3C=CC=CN3 | C15H13N3O4S
reactant | alpha-chloroethyl butyl carbonate | 29.3 mmol, 5.30 g | C(OC(C)Cl)(OCCCC)=O | C7H13ClO3
product | 4-[1-(Butoxycarbonyloxy)ethoxy]-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-Dioxide | C(CCC)OC(=O)OC(C)OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC2=NC=CC=C2 | C22H25N3O7S
